US08293909B2
Step 3: Preparation of methyl 3-(2-(4-fluorophenyl)-3-formylfuro[2,3-b]pyridin-5-yl)benzoate.
AIBN (22.2 mg, 0.135 mmol) was added to a stirring solution of NBS (88 mg, 0.49 mmol) and methyl 3-(2-(4-fluorophenyl)-3-methylfuro[2,3-b]pyridin-5-yl)benzoate (163 mg, 0.451 mmol) in CCl4 (40 mL) and was heated to 76° C. The mixture was allowed to stir for 2 hours. The reaction was concentrated and diluted with DMSO (1 mL) and treated with NMO (63 mg, 0.54 mmol) and subjected to MW irradiation (150° C.) for 10 min. The mixture was diluted with EtOAc and washed with 10% NaHSO4 2× followed by H2O and Brine. The organic phase was dried over Na2SO4, filtered and concentrated and was purified on silica gel (Biotage, EtOAc/hexanes gradient, fraction collection at λ=254 nm) to give the expected product methyl 3-(2-(4-fluorophenyl)-3-formylfuro[2,3-b]pyridin-5-yl)benzoate (34 mg, 0.091 mmol, 20% yield) consistent by LCMS and NMR. 1H NMR (500 MHz, DMSO-d6) δ ppm 10.31 (1H, s), 8.79 (1H, d, J=2.44 Hz), 8.74 (1H, d, J=2.44 Hz), 8.28 (1H, s), 8.16-8.25 (2H, m), 8.00-8.13 (2H, m), 7.72 (1H, t, J=7.78 Hz), 7.49-7.57 (2H, m), 3.92 (3H, s). LC-MS retention time: 1.72 min; m/z (MH+): 376. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5 u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | AIBN | 0.135 mmol, 22.2 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | NBS | 0.49 mmol, 88 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | methyl 3-(2-(4-fluorophenyl)-3-methylfuro[2,3-b]pyridin-5-yl)benzoate | 0.451 mmol, 163 mg | FC1=CC=C(C=C1)C1=C(C=2C(=NC=C(C2)C=2C=C(C(=O)OC)C=CC2)O1)C | C22H16FNO3
reactant | NMO | 0.54 mmol, 63 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | CCl4 | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 3-(2-(4-fluorophenyl)-3-formylfuro[2,3-b]pyridin-5-yl)benzoate | 0.091 mmol, 34 mg, 20% yield | FC1=CC=C(C=C1)C1=C(C=2C(=NC=C(C2)C=2C=C(C(=O)OC)C=CC2)O1)C=O | C22H14FNO4
